US05559113
4-[2-(4-Cyanophenoxy)ethyl]-1H-imidazole
360 mg (3 mmol) of 4-cyanophenol, 251 mg (1.5 mmol) of 4-[2-chloroethyl]imidazole hydrochloride, 500 mg (3.6 mmol) of potassium carbonate and sodium iodide (catalyst) are stirred at 80° C. for 5 days in 5 ml of dimethylformamide. The mixture is cooled and filtered. The filtrate is evaporated under reduced pressure to give an oily residue. The unreacted 4-cyanophenol is precipitated with a methanol/diethyl ether (1/10) fixture. After filtration, the filtrate is evaporated under reduced pressure to give the title compound which is crystallized from a methanol/water (10/3) mixture, M.p.: 181°-183° C.

reactant | 4-cyanophenol | 3 mmol, 360 mg | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 4-[2-chloroethyl]imidazole hydrochloride | 1.5 mmol, 251 mg | Cl.ClCCC=1N=CNC1
reactant | potassium carbonate | 3.6 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-[2-(4-Cyanophenoxy)ethyl]-1H-imidazole | C(#N)C1=CC=C(OCCC=2N=CNC2)C=C1 | C12H11N3O
